US06939885B2
Synthesis of 3-{4-[4-Chloro-2-(2-methyl-pyridine-4-carbonyl)-phenylsulfamoyl]-phenyl}-propionic acid methyl ester
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone and 3-(4-chlorosulfonyl-phenyl)-propionic acid methyl ester and purified by HPLC. 1H NMR (CDCl3) δ 10.13 (s, 1H) 8.62 (d, J=4.8 Hz, 1H) 7.73 (d, J=8.8 Hz, 1H) 7.65 (d, J=8.8 Hz, 2H) 7.49 (dd, J=8.8 Hz, 2.4 Hz, 1H) 7.28 (d, J=2.4 Hz, 1H) 7.19 (d, J=12 Hz, 2H) 7.13 (s, 1H) 6.95 (d, J=4.8 Hz, 1H) 3.62 (s, 3H) 2.90 (t, J=8 Hz, 2H) 2.63 (s, 3H) 2.56 (t, J=8 Hz, 2H). MS: m/z=473.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C | C13H11ClN2O
reactant | 3-(4-chlorosulfonyl-phenyl)-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)S(=O)(=O)Cl)=O | C10H11ClO4S
product | 3-{4-[4-Chloro-2-(2-methyl-pyridine-4-carbonyl)-phenylsulfamoyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC=C(C=C1)S(NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C)(=O)=O)=O | C23H21ClN2O5S
